US04758262
α-(4-Chlorophenyl)-α-(2-fluorophenyl)oxiranemethanol
To a solution of 0.9 g of 2-bromofluorobenzene in 10 mL of THF and 20 mL of diethyl ether was added 3.2 mL of a 1.6M solution of n-butyllithium in hexanes at -78°. After the addition was complete, a solution of 0.9 g of 4'-chloro-2,3-epoxypropiophenone (J.T. Lumb, Tetrahedron Lett., 1970, 579) in 5 mL of ether was added, and the reaction mixture was allowed to warm to room temperature. After being quenched with 10 mL of saturated NH4Cl (aqueous), the mixture was separated, the organic phase was washed with brine, dried (MgSO4), filtered, concentrated, and triturated with hexanes to afford 1.0 g of the title compound, m.p. 120°-122°.

reactant | 2-bromofluorobenzene | 0.9 g | BrC1=C(C=CC=C1)F | C6H4BrF
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4'-chloro-2,3-epoxypropiophenone | 0.9 g | ClC1=CC=C(C=C1)C(C1CO1)=O | C9H7ClO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | ether | 5 mL | CCOCC | C4H10O
product | α-(4-Chlorophenyl)-α-(2-fluorophenyl)oxiranemethanol | 1.0 g | ClC1=CC=C(C=C1)C(O)(C1OC1)C1=C(C=CC=C1)F | C15H12ClFO2
